US04204068
A solution of di-isopropylamine (4.04 g) and butyl-lithium (25 ml, 1.60 M in hexane) in dry tetrahydrofuran (40.0 ml), stirred at -78° under dry nitrogen, was treated over 5 minutes with t-butyl acetate (4.64 g). To this solution was added, over 5 minutes, a solution of α,α'-dibromo-m-xylene (11.60 g) and dry hexamethylphosphoramide (1.42 g) in dry tetrahydrofuran (8.0 ml). The resulting yellow solution was stirred at -78° for 1/2 hour, then allowed to warm to room temperature over 3 hours. Excess ice-water was added, and the mixture extracted with ether, and the extract washed with 1 N hydrochloric acid (60 ml) then water. The dried extract was concentrated in vacuo, to give a yellow oil which was purified by column chromatography on silica, eluting with 1:1 ether:hexane, giving t-butyl 3-(3-bromomethylphenyl)propionate as a colourless oil. Using the method described in the last foregoing paragraph this was converted to the desired diethylester which was used in each of Examples 22 to 25.

reactant | di-isopropylamine | 4.04 g | C(C)(C)NC(C)C | C6H15N
reactant | butyl-lithium | 1.60 M, 25 ml | C(CCC)[Li]
reactant | t-butyl acetate | 4.64 g | C(C)(=O)OC(C)(C)C | C6H12O2
reactant | α,α'-dibromo-m-xylene | 11.60 g | BrCC1=CC(=CC=C1)CBr | C8H8Br2
solvent | tetrahydrofuran | 40.0 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 8.0 ml | O1CCCC1 | C4H8O
solvent | hexamethylphosphoramide | 1.42 g | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
product | t-butyl 3-(3-bromomethylphenyl)propionate | BrCC=1C=C(C=CC1)CCC(=O)OC(C)(C)C | C14H19BrO2
